US06900215B2
2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionitrile and 4-fluoro-3-(pyridin-3-yl)benzeneboronic acid were coupled following the procedure in Example 65 to give 2-[3-(4-fluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionitrile as a white solid: δH (360 MHz, CDCl3) 1.86 (6H, s), 7.32 (1H, d, J 7), 7.38-7.45 (2H, m), 7.53-7.62 (2H, m), 7.86-7.97 (1H, m), 7.91 (1H, d, J 3), 8.62 (1H, d, J 7), 8.67 (1H, dd, J 8 and 3), 8.84 (1H, s); m/z (ES+) 358 (M++H).

reactant | 2-(3-Bromoimidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionitrile | BrC1=CN=C2N1C=CC(=N2)C(C#N)(C)C | C10H9BrN4
reactant | 4-fluoro-3-(pyridin-3-yl)benzeneboronic acid | FC1=C(C=C(C=C1)B(O)O)C=1C=NC=CC1 | C11H9BFNO2
product | 2-[3-(4-fluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropionitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C#N)(C)C)C=2C=NC=CC2 | C21H16FN5
